US08404680B2
5-But-2-ynyloxy-pyridine-2-carboxylic acid methyl ester
A mixture of 5-hydroxy-pyridine-2-carboxylic acid methyl ester (271 mg) and 1-bromo-2-butine (283 mg) in DMF (5 ml) was treated with potassium carbonate (367 mg) and heated to 100° C. for 16 h. the mixture was partitioned between water and ethyl acetate, the organic layer was dried, evaporated and the residue was purified by chromatography using heptane/ethyl acetate (gradient from 0-80% ethyl acetate) to give the title product (266 mg) as a pale yellow solid. MS: m/z=206.1 [M+H]+.

reactant | 5-hydroxy-pyridine-2-carboxylic acid methyl ester | 271 mg | COC(=O)C1=NC=C(C=C1)O | C7H7NO3
reactant | 1-bromo-2-butine | 283 mg | BrCC#CC | C4H5Br
reactant | potassium carbonate | 367 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-But-2-ynyloxy-pyridine-2-carboxylic acid methyl ester | 266 mg | COC(=O)C1=NC=C(C=C1)OCC#CC | C11H11NO3
